US04489089
N-[3-(2-phenyl-1H-imidazol-1-yl)propyl]-2-furanecarboxamide
A mixture of 2.0 g. of 2-phenyl-1H-imidazole-1-propanamine, 50 ml. of methylenechloride and 10 ml. of 1N sodium hydroxide was stirred and 2.0 ml. of 2-furoyl chloride was added. The mixture was stirred for eighteen hours, methylene chloride was added and the layers were separated. The organic layer was washed with water, dried over magnesium sulfate and concentrated. The desired product was obtained as an oil.

reactant | 2-phenyl-1H-imidazole-1-propanamine | C1(=CC=CC=C1)C=1N(C=CN1)CCCN | C12H15N3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[3-(2-phenyl-1H-imidazol-1-yl)propyl]-2-furanecarboxamide | C1(=CC=CC=C1)C=1N(C=CN1)CCCNC(=O)C=1OC=CC1 | C17H17N3O2
